US08865732B2
A mixture of 4-bromo-2-(4-fluorophenyl)thiazole (450 mg, 1.7 mmol), 3-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine (400 mg, 1.6 mmol), and aqueous 2.0 M Na2CO3 solution (2.3 mL, 4.6 mmol) in DME (6.8 mL) was sparged with Ar for 3 min. Tetrakis(triphenylphosphine)palladium(0) (120 mg, 0.1 mmol) was added and the reaction mixture was sparged with Ar for 1 min. The reaction was sealed and irradiated at 115° C. for 25 min in a microwave reactor. The reaction mixture was partitioned with EtOAc (50 mL) and saturated aqueous NaHCO3 solution (100 mL). The separated organic layer was washed with saturated aqueous NaHCO3 solution (50 mL). The organic layer was extracted with aqueous 0.5 N HCl solution (2×25 mL). The combined acidic aqueous portions were washed with EtOAc (30 mL), neutralized with saturated aqueous NaHCO3 solution and extracted with EtOAc (3×50 mL). The organic layer was dried (Na2SO4), filtered, and concentrated in vacuo. The crude material was purified by column chromatography over silica gel (SiO2, 100% EtOAc) to furnish 145 mg (88% purity) of 5-(2-(4-fluorophenyl)thiazol-4-yl)-3-methoxypyridin-2-amine which was directly used in the next step: LCMS (m/z): 302.1 (MH+), tR=0.75 min.

reactant | 4-bromo-2-(4-fluorophenyl)thiazole | 1.7 mmol, 450 mg | BrC=1N=C(SC1)C1=CC=C(C=C1)F | C9H5BrFNS
reactant | 3-methoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine | 1.6 mmol, 400 mg | COC=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)N | C12H19BN2O3
reactant | Na2CO3 | 4.6 mmol, 2.0 M, 2.3 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 6.8 mL | COCCOC | C4H10O2
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.1 mmol, 120 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(2-(4-fluorophenyl)thiazol-4-yl)-3-methoxypyridin-2-amine | 145 mg, 88% | FC1=CC=C(C=C1)C=1SC=C(N1)C=1C=C(C(=NC1)N)OC | C15H12FN3OS
